US09278972B2
(3aS,4R,6S,6aR)-6-(2-(benzyloxy)ethoxy)-2,2-dimethyl-N-trityltetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-amine (IIIe)
A solution of (10 g, 24.0 mmol) (3aR,4S,6R,6aS)-2,2-dimethyl-6-(tritylamino)tetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-ol in dry DMF (100 mL) under nitrogen atmosphere was cooled at 0° C. followed by addition of NaH (60%, 1.2 g, 29.0 mmol). After stirring for 30 min at 0° C., 2-(benzyloxy)ethyl 4-methylbenzenesulfonate (7.4 g, 24.0 mmol) was added and the reaction mixture was allowed to warm at room temperature. After stirring for 4 hours, the reaction mixture was quenched with water (100 mL). To the mixture was extracted 3×100 mL of EtOAc. The combined organic phases were dried over MgSO4, filtered and evaporated to the dryness. The pure IIIe was isolated from reaction mixture by chromatography on silica gel column (mobile phase: n-hexane/EtOAc).

reactant | (3aR,4S,6R,6aS)-2,2-dimethyl-6-(tritylamino)tetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-ol | 24.0 mmol, 10 g | CC1(O[C@H]2[C@@H](O1)[C@@H](C[C@@H]2O)NC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C | C27H29NO3
reactant | NaH | 29.0 mmol, 1.2 g | [H-].[Na+]
reactant | 2-(benzyloxy)ethyl 4-methylbenzenesulfonate | 24.0 mmol, 7.4 g | CC1=CC=C(C=C1)S(=O)(=O)OCCOCC1=CC=CC=C1 | C16H18O4S
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | (3aS,4R,6S,6aR)-6-(2-(benzyloxy)ethoxy)-2,2-dimethyl-N-trityltetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-amine | C(C1=CC=CC=C1)OCCO[C@H]1C[C@H]([C@H]2[C@@H]1OC(O2)(C)C)NC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | C36H39NO4
